US07217723B2
6-Methyl-7-oxo-4,5,6,7-tetrahydrobenzo[b]thiophene-3-sulfonic acid[2-(4-fluorophenyl)2-hydroxyethyl]-methyl-amide
From 6-methyl-7-oxo-4,5,6,7-tetrahydrobenzo[b]thiophene-3-sulfonyl chloride (the compound of Preparation Example 13) (140 mg) and 1-(4-fluorophenyl)-2-methylamino ethanol (the compound of Preparation Example 17) (108 mg), the title compound (orange oily substance) (155 mg) was obtained as a mixture of diastereomers, in the same way as Preparation Example 41.

reactant | 6-methyl-7-oxo-4,5,6,7-tetrahydrobenzo[b]thiophene-3-sulfonyl chloride | CC1CCC2=C(SC=C2S(=O)(=O)Cl)C1=O | C9H9ClO3S2
reactant | 1-(4-fluorophenyl)-2-methylamino ethanol | FC1=CC=C(C=C1)C(CNC)O | C9H12FNO
product | 6-Methyl-7-oxo-4,5,6,7-tetrahydrobenzo[b]thiophene-3-sulfonic acid[2-(4-fluorophenyl)2-hydroxyethyl]-methyl-amide | 155 mg | FC1=CC=C(C=C1)C(CN(S(=O)(=O)C=1C2=C(SC1)C(C(CC2)C)=O)C)O | C18H20FNO4S2
